US04963590
3,4-Dimethoxy-5-cyanobenzaldehyde
A mixture containing 2.5 g of 3,4-dimethoxy-5-bromobenzaldehyde and 1.0 g of cuprous cyanide in N-methylpyrrolidone was refluxed for 2 h. Water was added and the solution was extracted with dichloromethane. The solvent was evaporated in vacuo. Yield 1.55 g (81%), m.p. 109°-112° C.

reactant | 3,4-dimethoxy-5-bromobenzaldehyde | 2.5 g | COC=1C=C(C=O)C=C(C1OC)Br | C9H9BrO3
reactant | Water | O | H2O
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 3,4-Dimethoxy-5-cyanobenzaldehyde | COC=1C=C(C=O)C=C(C1OC)C#N | C10H9NO3
